* source VLSI
M_M2         N00277 N00505 0 0 MbreakN           
M_M6         N00505 N00505 N00207 N00505 MbreakP           
M_M3         N00505 N00207 N04710 N00505 MbreakP           
M_M4         N04710 N00207 0 0 MbreakN           
V_V1         N00505 0 5Vdc
M_M5         N00505 N00505 N00207 N00505 MbreakP           
M_M1         N00207 N00505 N00277 0 MbreakN           
